US06627651B1
Into a suspension of methyl 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (327.4 mg) in THF/methanol (4/2 ml) was added at room temperature an aqueous solution (1.0 ml) of potassium carbonate (240 mg), and the resulting mixture was stirred at 60° C. for 20 hours. After cooling to room temperature, 1 N hydrochloric acid (5 ml) was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (241 mg) as light yellow crystals.

reactant | methyl 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 327.4 mg | FC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C19H17FO5S
reactant | potassium carbonate | 1.0 ml, 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | THF methanol | 2 ml | C1CCOC1.CO
product | 7-[(4-fluorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 241 mg | FC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=C1 | C18H15FO5S
